US20010006969A1
2-Allylamino-4-(2,2,2-trifluoroethylamino)-6-nitroquinazoline
To 250 mg (1.21 mmol) of 6-nitroquinazoline-2,4(1H,3H)-dione were added 5.00 ml (53.64 mmol) of phosphorus oxychloride and 0.18 ml (1.21 mmol) of diisopropylformamide, and the resulting mixture was subjected to heating under reflux for 24 hours. After phosphorus oxychloride was removed in vacuo, the mixture was dissolved in 5 ml of acetonitrile, followed by addition of 328 mg (2.42 mmol) of 2,2,2-trifluoroethylamine hydrochloride and 1.69 ml (12.10 mmol) of triethylamine under ice cooling and stirring under ice cooling for 30 minutes. To the reaction solution was added water, followed by extraction with ethyl acetate, washing with brine and drying over anhydrous sodium sulfate. After the solvent was distilled off, 1.50 ml (20.00 mmol) of allylamine was added thereto, followed by stirring overnight, adding water to the reaction solution, extraction with ethyl acetate, washing with brine and drying over anhydrous sodium sulfate. After the solvent was distilled off, the residue was purified by a silica gel column to give 50 mg (12.6%) of the title compound.

reactant | 6-nitroquinazoline-2,4(1H,3H)-dione | 1.21 mmol, 250 mg | [N+](=O)([O-])C=1C=C2C(NC(NC2=CC1)=O)=O | C8H5N3O4
reactant | phosphorus oxychloride | 53.64 mmol, 5.00 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | diisopropylformamide | 1.21 mmol, 0.18 ml | C(C)(C)N(C=O)C(C)C | C7H15NO
reactant | 2,2,2-trifluoroethylamine hydrochloride | 2.42 mmol, 328 mg | Cl.FC(CN)(F)F
reactant | triethylamine | 12.10 mmol, 1.69 ml | C(C)N(CC)CC | C6H15N
reactant | allylamine | 20.00 mmol, 1.50 ml | C(C=C)N | C3H7N
solvent | water | O | H2O
product | 2-Allylamino-4-(2,2,2-trifluoroethylamino)-6-nitroquinazoline | 50 mg, 12.6% | C(C=C)NC1=NC2=CC=C(C=C2C(=N1)NCC(F)(F)F)[N+](=O)[O-] | C13H12F3N5O2
